US07541368B2
To a solution of 4-(carboxy-benzyl)-piperidine-1-carboxylic acid tert-butyl ester (1.595 g, 5.0 mmol) in THF (25 mL) at room temp is added TEA (0.77 mL, 5.5 mmol) followed by DPPA (1.18 mL, 5.5 mmol). The mixture is refluxed for 1 hour and 3-amino-4-tert-butyl-2-tolylpyrazole (1.26 g, 5.5 mmol) is added and the reaction is refluxed overnight. The reaction is cooled and partitioned between ether-aqueous NH4Cl, and the organic layer is washed with brine, then dried over MgSO4, filtered and evaporated. The residue is chromatographed on silica gel using ethyl acetate/heptane (3:7) chloride to yield 1.22 grams of 4-{4-[3-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-benzyl}-piperidine-1-carboxylic acid tert-butyl ester. 4-{4-[3-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-benzyl}-piperidine-1-carboxylic acid tert-butyl ester (3.24 g, 5.94 mmol) is dissolved in methylene chloride (20 mL) under nitrogen at 0° C. and 4N HCL in dioxane (3 ml) is added. After 10 minutes the cooling bath is removed and the reaction is stirred for 3 hours at room temp. The solution is concentrated to a foam which solidified after stirring in ether for a few hours. The solid is filtered and air dried to give 2.8 grams of 1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3(4-piperidin-4-ylmethyl-phenyl)-urea hydrochloride. Intermediate 4, LCMS M+1 446, RT=2.82 minutes.

reactant | 4-{4-[3-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-benzyl}-piperidine-1-carboxylic acid tert-butyl ester | 5.94 mmol, 3.24 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C=C1)NC(=O)NC=1N(N=C(C1)C(C)(C)C)C1=CC=C(C=C1)C | C32H43N5O3
reactant | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3(4-piperidin-4-ylmethyl-phenyl)-urea hydrochloride | 2.8 grams | Cl.C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)CC1CCNCC1 | InChI=1S/C27H35N5O.ClH/c1-19-5-11-23(12-6-19)32-25(18-24(31-32)27(2,3)4)30-26(33)29-22-9-7-20(8-10-22)17-21-13-15-28-16-14-21;/h5-12,18,21,28H,13-17H2,1-4H3,(H2,29,30,33);1H
